Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]=[O:4]>>[H:1][O:2][C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-2.4434755904700003
[O:1]=[C:2]1[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])=[C:9]1[H:10]>>[O:1]=[C:2]/[C:9](=[C:7](/[C:5](=[C:3][H:4])[H:6])[H:8])[H:10],3.47152671999
[C:1]#[C:2][C:3]([O:4][O:5])=[C:6]([H:7])[H:8]>>[C:1]#[C:2][C:3][C:6]([H:7])[H:8].[O:4]=[O:5],-0.313947483191
[H:5].[O:1]=[C:2]([H:3])/[C:4](=[C:6]/[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6][O:7][H:8])[C:9]([H:10])([H:11])[H:12],-2.7224831656299995
[C:1]=[C:2]([C:3]([H:4])[C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1].[C:2](=[C:3](\[H:4])[C:5]([H:6])=[C:7]([H:8])[H:9])\[C:10]([H:11])([H:12])[H:13],5.11398552204
[C:5]([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.26704043323
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2],3.9963781316
[H:4].[O:1][C:2]#[C:3][C:5]([H:6])([H:7])[H:8]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[H:8],-4.39873200149
[H:13].[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11][H:12]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-5.29754621055
[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[H:9],3.86647005796
[C:6]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19].[H:1][C:2]([H:3])([H:4])[C:5]([H:7])[H:8]>>[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19],-4.44093526192
[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[O:10]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])[H:13],-2.13335178812
[C:1]#[C:2]/[C:3]([C:4]([H:5])[H:6])=[C:7]\[O:9][H:10].[H:8]>>[C:1]#[C:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](\[H:8])[O:9][H:10],-4.47084460388
[H:1][C:2][C:3]1=[C:4]([H:5])[C@:6]([H:7])([O:8][H:9])[O:10]1>>[H:1][C:2][C:3](/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9])=[O:10],-1.44340283523
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[O:8][H:9]>>[C:4]=[C:5]([H:6])[H:7].[H:1][O:2][C:3][O:8][H:9],3.99370655741
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12]([H:13])[H:14],1.97353347085
[H:1][C:2]#[C:3][C:4]([O:5][C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][C:2]#[C:3][C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.89702954923
[H:14].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.51188950439
[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][H:9]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-7.860272032869999
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][O:8][C:9]([H:10])=[C:11]([H:12])[H:13].[O:2]=[C:3]([H:4])[C:5]([H:6])[H:7],0.147812198689
[C:1]=[C:2]([O:3][H:4])[O:5][C:6]#[C:7][H:8]>>[C:1]#[C:2][O:3][H:4].[O:5][C:6]#[C:7][H:8],0.73060903793
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:12]([H:13])[H:14].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11],5.0501184429300015
[C:8][C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[H:7]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-3.4320769285000003
[C:3][H:4].[H:1][C:8]([C:5]([C:2])([H:6])[H:7])=[C:9][H:10]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10],-10.5578191934
[C:2]#[C:3][C:4]([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:1]>>[H:1][C:2]#[C:3][C:4]([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-4.77116998671
[H:1][O:2][C:3][C:8]([C:5]([O:4])([H:6])[H:7])([H:9])[H:10]>>[H:1][O:2][C:3]1[O:4][C:5]([H:6])([H:7])[C:8]1([H:9])[H:10],-2.2888263589
[C:3]([H:4])(=[C:8]=[C:5]([H:6])[H:7])[H:11].[H:1][C:2]#[C:9][H:10]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],1.39033647388
[C:1]#[C:2].[C:3]([H:4])([H:5])=[C:6]=[C:7]([H:8])[O:9][H:10]>>[C:1]#[C:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[O:9][H:10],-2.49235002179
[C:4](=[O:5])[C:6]([H:7])([H:8])[H:9].[O:1]=[C:2]([H:3])[C:10]([H:11])([H:12])[H:13]>>[O:1][C@:2]([H:3])([C:4](=[O:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-0.3710704990489999
[C:1]=[C:2]([H:3])[C:4](=[C:5]=[O:6])[O:7][H:8]>>[C:1]#[C:2][C:4](=[C:5]=[O:6])[O:7][H:8].[H:3],2.69926780942
